US07473698B2
To a 150-mL RB-flask containing tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate (5.58 g, 16.5 mmol), K2CO3 (5.60 g, 40.5 mmol) and PdCl2dppf (1.48 mmol, 1.21 g) was added a solution of 4-bromo-1-fluoro-2-nitrobenzene (3.30 g, 15.0 mmol) in DMF (50.0 mL) at room temperature under argon. The mixture was heated to 80° C. under argon for 12 hours. After cooling to room temperature, the mixture was filtered through Celite and the Celite was washed with EtOAc (3×100 mL). The filtrates were washed with H2O (3×200 mL), brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (EtOAc/hexanes 1:9) to afford tert-butyl 4-(4-fluoro-3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate (3.13 g, 65.1%): 1H NMR (400 MHz, CDCl3) δ 8.06-7.89 (m, 1H), 7.66-7.49 (m, 1H), 7.30-7.10 (m, 1H), 6.19-5.95 (br, 1H), 4.10-3.95 (m, 2H), 3.58 (t, 2H, J=5.6 Hz), 2.49-2.34 (m, 2H), 1.42 (s, 9H).

reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate | 16.5 mmol, 5.58 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | K2CO3 | 40.5 mmol, 5.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 15.0 mmol, 3.30 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
solvent | DMF | 50.0 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-fluoro-3-nitrophenyl)-3,6-dihydro-1(2H)-pyridinecarboxylate | 3.13 g, 65.1% | FC1=C(C=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H19FN2O4
